US20010027196A1
5-Bromo-4-butoxy-6-furan-2-yl-pyrimidin-2-yl-amine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine, butanol and DBU in dioxane. ES-MS m/e (%): 314 (M{81Br}+H+, 100), 312 (M{79Br}+H+, 98), 258 ([M{81Br}+H-EtCH═CH2]+, 92), 256 ([M{8Br}+H-EtCH ═CH2]+, 90).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | butanol | C(CCC)O | C4H10O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-4-butoxy-6-furan-2-yl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1C=1OC=CC1)N)OCCCC | C12H14BrN3O2
